US07041668B2
A solution of 4-fluoro-benzenesulfonic acid 2-tert-butoxycarbonylamino-3H-benzoimidazol-5-yl ester (200 mg, example 55 (Step 3) and 4-hydroxypiperidine (554 mg) in N-methylpyrrolidinone (6 ml) was heated at 110° C. for 24 hours. The reaction mixture was then poured into water (120 ml) and extracted three times with ethyl acetate (50 ml). The combined extracts were dried over magnesium sulfate and then evaporated. The residue was subjected to flash chromatography on silica eluting with a mixture of dichloromethane and methanol (95 C: 5, v/v) to give (4-hydroxy-piperidin-1-yl)-benzenesulfonic acid 2-[(4-hydroxy-piperidine-1-carbonyl)-amino]-1H-benzoimidazol-5-yl ester (125 mg) as a beige solid. Mass Spectrum: 516 [M+H]+, retention time=6.51 minutes.

reactant | 4-fluoro-benzenesulfonic acid 2-tert-butoxycarbonylamino-3H-benzoimidazol-5-yl ester | C(C)(C)(C)OC(=O)NC=1NC2=C(N1)C=CC(=C2)OS(=O)(=O)C2=CC=C(C=C2)F | C18H18FN3O5S
reactant | 4-hydroxypiperidine | 554 mg | OC1CCNCC1 | C5H11NO
reactant | water | 120 ml | O | H2O
solvent | N-methylpyrrolidinone | 6 ml | CN1C(CCC1)=O | C5H9NO
product | (4-hydroxy-piperidin-1-yl)-benzenesulfonic acid 2-[(4-hydroxy-piperidine-1-carbonyl)-amino]-1H-benzoimidazol-5-yl ester | 125 mg | OC1CCN(CC1)C(=O)NC1=NC2=C(N1)C=CC(=C2)OS(=O)(=O)C2=C(C=CC=C2)N2CCC(CC2)O | C24H29N5O6S
